US08304419B2
Step B: 2-(bis{[(1,1-dimethylethyl)oxy]carbonyl}amino)-4-bromo-1H-imidazole-5-carboxylic acid
A solution of sodium chlorite (0.348 g, 3.84 mmol) and sodium dihydrogenphosphate monohydrate (0.318 g, 2.306 mmol) in water (4 mL) was added to a solution of bis(1,1-dimethylethyl)(4-bromo-5-formyl-1H-imidazol-2-yl)imidodicarbonate (0.150 g, 0.384 mmol), 2-methyl-2-butene (2M in THF) (2.402 mL, 4.80 mmol), t-BuOH (2 mL) and THF (6 mL). The mixture was stirred at RT overnight and extracted with EtOAc. The organic layer was dried over sodium sulfate and concentrated. The residue was triturated with ether to give the desired product (0.047 g, 30%) as a white solid. ES MS: m/z 406 (M+1).

reactant | sodium chlorite | 3.84 mmol, 0.348 g | Cl(=O)[O-].[Na+]
reactant | sodium dihydrogenphosphate monohydrate | 2.306 mmol, 0.318 g | O.P(=O)(O)(O)[O-].[Na+]
reactant | bis(1,1-dimethylethyl)(4-bromo-5-formyl-1H-imidazol-2-yl)imidodicarbonate | 0.384 mmol, 0.150 g | CC(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C=1NC(=C(N1)Br)C=O | C14H20BrN3O5
reactant | 2-methyl-2-butene | 4.80 mmol, 2M, 2.402 mL | CC(C)=CC | C5H10
solvent | water | 4 mL | O | H2O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | t-BuOH | 2 mL | CC(C)(C)O | C4H10O
product | 2-(bis{[(1,1-dimethylethyl)oxy]carbonyl}amino)-4-bromo-1H-imidazole-5-carboxylic acid | 0.047 g, 30% | CC(C)(C)OC(=O)N(C=1NC(=C(N1)Br)C(=O)O)C(=O)OC(C)(C)C | C14H20BrN3O6
